US04267333
A 500 mL three-necked flask equipped with a stirrer, water condenser and thermometer was charged with fifteen grams (15 g) of isatin (0.10 mol), six grams (6 g) of potassium hydroxide (0.11 mol), and 100 mL of water. About 12 grams (12 g) of glacial acetic acid (0.20 mol) and 12 grams (12 g) of sodium acetate (0.14 mol) were then added to bring the pH of the mixture to 5±0.1. After the addition of 13.7 grams of trifluoroacetone (0.12 mol), the mixture was heated to 70° C. for 15 hours. At the end of this time, the mixture was acidified with 10% hydrochloric acid. A precipitate of 2-trifluoromethyl cinchoninic acid was obtained which was separated by filtration. The precipitate was washed with water until the wash water was clear, and then dried in air. About 18.8 grams of product was recovered, representing a yield of 76 percent.

reactant | isatin | 0.10 mol, fifteen grams | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | potassium hydroxide | 0.11 mol, six grams | [OH-].[K+]
reactant | acetic acid | 0.20 mol, 12 grams | C(C)(=O)O | C2H4O2
reactant | sodium acetate | 0.14 mol, 12 grams | C(C)(=O)[O-].[Na+]
reactant | trifluoroacetone | 0.12 mol, 13.7 grams | FC(C(C)=O)(F)F | C3H3F3O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 mL | O | H2O
product | 2-trifluoromethyl cinchoninic acid | yield of 76 percent | FC(C1=NC2=CC=CC=C2C(=C1)C(=O)O)(F)F | C11H6F3NO2
